US07189851B2
A. 4-[3-(Ethoxycarbonyl)-5-oxo-2-(trifluoromethyl)-1,5,8,9-tetrahydro-4H,7H-pyrazolo[1′,2′:1,2]pyrazolo[3,4-b]pyridin-4-yl]benzoic acid
A mixture of ethyl 4,4,4-trifluoroacetoacetate (0.3 mL, 2.05 mmol), 4-carboxybenzaldehyde (300 mg, 2.00 mmol), 3-amino-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one hydrochloride (refs. R. B. Greenwald, U.S. Pat. No. 4,128,425, and E. E. Boros, F. Bouvier, S. Randhawa and M. H. Rabinowitz, J. Heterocyclic Chem., 2001, 38, 613–616.) (˜350 mg, 2.00 mmol) and NaOEt (170 mg, 2.5 mmol) in EtOH (5 mL) was heated at reflux for 24 h. The reaction mixture was diluted with water and the resulting precipitate was collected by filtration. The filter cake was triturated with EtOAc to afford the title compound as a white solid (460 mg, 1.05 mmol, 51% crude): 1H NMR (400 MHz, DMSO-d6) δ 12.79 (br s, 1H), 10.19 (s, 1H), 7.83 (d, 2H, J=8), 7.25 (d, 2H, J=8), 4.78 (s, 1H), 3.92 (q, 2H, J=7), 3.40 (m, 4H), 2.30 (m, 2H), 0.98 (t, 3H, J=7) ppm; ESI-MS m/z 436 (M−H)−;

reactant | ethyl 4,4,4-trifluoroacetoacetate | 2.05 mmol, 0.3 mL | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | 4-carboxybenzaldehyde | 2.00 mmol, 300 mg | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | 3-amino-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one hydrochloride | Cl.NC1=CC(N2N1CCC2)=O
reactant | NaOEt | 2.5 mmol, 170 mg | CC[O-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | water | O | H2O
product | 4-[3-(Ethoxycarbonyl)-5-oxo-2-(trifluoromethyl)-1,5,8,9-tetrahydro-4H,7H-pyrazolo[1′,2′:1,2]pyrazolo[3,4-b]pyridin-4-yl]benzoic acid | 1.05 mmol, 460 mg, 51% | C(C)OC(=O)C=1C(C2=C(NC1C(F)(F)F)N1N(C2=O)CCC1)C1=CC=C(C(=O)O)C=C1 | C20H18F3N3O5
